US09227976B2
4-chloro-1-(2-fluoroethyl)-3,5-diphenyl-pyrazolo[3,4-c]pyridazine (Compound IIl)
Compound IIl was synthesized from 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine and 2-fluoroethanol following the general procedure for the Mitsunobu reaction as described above.

reactant | 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C2=CC=CC=C2 | C17H11ClN4
reactant | 2-fluoroethanol | FCCO | C2H5FO
product | 4-chloro-1-(2-fluoroethyl)-3,5-diphenyl-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)CCF | C19H14ClFN4
